US09416135B2
(R)-benzyl(1-((2,2-dimethoxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate (335 g, 0.99 mol) was added in portions to a cooled TFA-H2O (temperature <5° C., VTFA VH2O=7/3, 2 L), and the solution was stirred at rt for 12 h. The solution was added slowly into a stirring cooled sat. aq. Na2CO3 (2.5 L) to keep the pH>8. Then the mixture was extracted with EtOAc (5×2 L). The combined organic layers were washed with brine (2 L), dried over anhydrous Na2SO4, filtered and evaporated in vacuo to give (R)-benzyl 2-isopropyl-3-oxo-3,4-dihydropyrazine-1(2H)-carboxylate as a white solid (259 g, 95.4%), which was used for next step without further purification. LC-MS m/z 274.9 [M+H]+. 1H NMR (CD3OD 300 MHz): δ7.36-7.34 (m, 5H), 6.33-6.30 (m, 1H), 5.79-5.68 (m, 1H), 5.26-5.13 (m, 2H), 4.38-4.29 (m, 1H), 2.01-1.96 (m, 1H), 1.00-0.84 (m, 6H).

reactant | (R)-benzyl(1-((2,2-dimethoxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate | 0.99 mol, 335 g | C(C1=CC=CC=C1)OC(N[C@@H](C(=O)NCC(OC)OC)C(C)C)=O | C17H26N2O5
reactant | TFA H2O | 2 L | C(=O)(C(F)(F)F)O.O
reactant | Na2CO3 | 2.5 L | C(=O)([O-])[O-].[Na+].[Na+]
product | (R)-benzyl 2-isopropyl-3-oxo-3,4-dihydropyrazine-1(2H)-carboxylate | 259 g, 95.4% | C(C)(C)[C@H]1N(C=CNC1=O)C(=O)OCC1=CC=CC=C1 | C15H18N2O3
